* c:\users\acer\esim-workspace\abdulmannan\abdulmannan.cir

.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
* u5  io i1 set net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ adc_bridge_3
* u6  net-_u4-pad4_ net-_sc1-pad1_ dac_bridge_1
v3  set gnd pulse(0 5 1m 1m 1m 10 20)
v2  i1 gnd pulse(0 5 1m 1m 1m 2.5 5)
v1  io gnd pulse(0 5 1m 1m 1m 5 10)
* u3  set plot_db
* u2  i1 plot_db
* u1  io plot_db
xsc2 vout gnd sky130_fd_pr__cap_mim_m3_1 M=1u W=1u  L=2.5u
* u7  vout plot_db
* s c m o d e
xsc1 net-_sc1-pad1_ vout net-_sc1-pad1_ sky130_fd_pr__res_generic_pd 
* u8  ? ? ? ? abdulmannan_mux
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ abdulmannan_mux
a1 [io i1 set ] [net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ ] u5
a2 [net-_u4-pad4_ ] [net-_sc1-pad1_ ] u6
a3 [? ] [? ] [? ] [? ] u8
a4 [net-_u4-pad1_ ] [net-_u4-pad2_ ] [net-_u4-pad3_ ] [net-_u4-pad4_ ] u4
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             abdulmannan_mux, NgSpice Name: abdulmannan_mux
.model u8 abdulmannan_mux(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             abdulmannan_mux, NgSpice Name: abdulmannan_mux
.model u4 abdulmannan_mux(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 1e-00 40e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(set)
plot v(i1)
plot v(io)
plot v(vout)
.endc
.end
